US06137003
Benzyl 2-Bis(2'-chloroethyl)amino-3,5-dimethylbenzoate
2-Bis(2'-chloroethyl)amino-3,5-dimethylbenzoic acid (1.0 g, 3.45 mmol), benzyl alcohol (0.75 g, 6.90 mmol), 1,3-dicyclohexylcarbodiimide (0.82 g, 3.975 mmol), and 4-dimethylaminopyridine (0.50 g, 4.03 mmol) were dissolved in 25 mL dichloromethane at room temperature to form a reaction mixture. The mixture was stirred for 17 hours, diluted with hexanes (10 mL), cooled in the freezer for 20 minutes, and then filtered, It was then concentrated and then subjected to flash chromatographic purification (silica gel, 5% to 10% ethyl acetate in hexanes) to afford the product as a white oil (1.20 g, 92%). 1H NMR (300 MHz, CDCl3): 7.4 (m, 5H), 7.33 (d, J=2.1 Hz, 1H), 7.17 (d, J=2.1 Hz, 1H), 5.32 (s, 2H), 3.46 (m, 4H), 3.30 (br m, 4H), 2.33 (s, 3H), 2.29 (s, 3H). ESMS calcd (C20H23Cl2NO3): 379.1; found: 380.2 (M+H)+.

reactant | 2-Bis(2'-chloroethyl)amino-3,5-dimethylbenzoic acid | 3.45 mmol, 1.0 g | ClCCN(C1=C(C(=O)O)C=C(C=C1C)C)CCCl | C13H17Cl2NO2
reactant | benzyl alcohol | 6.90 mmol, 0.75 g | C(C1=CC=CC=C1)O | C7H8O
reactant | 1,3-dicyclohexylcarbodiimide | 3.975 mmol, 0.82 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 4.03 mmol, 0.50 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | Benzyl 2-Bis(2'-chloroethyl)amino-3,5-dimethylbenzoate | 1.20 g, 92% | ClCCN(C1=C(C(=O)OCC2=CC=CC=C2)C=C(C=C1C)C)CCCl | C20H23Cl2NO2
